datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([H:20])[H:21])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12](=[C:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:16])[H:17],82.4248
[C:0]([C:1](=[C:2]([H:10])[H:11])[C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:10])[H:11])[C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:16],67.7808
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10](=[C:11]([H:13])[H:14])[H:12],15.4808
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])([H:10])([H:11])[H:12],25.4387
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],97.2362
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])([H:9])[H:12])([H:10])[H:11],117.248232
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]1[C:2]([H:8])([C:12]([H:13])([H:14])[H:15])[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],5.4392
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]([C:14]([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])([H:22])[H:23])[H:21]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:22])([H:4])([H:5])[H:6].[S:13]([C:14]([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])[H:23])[H:21],2.5104
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([O:9][O:10])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:10][O:9][C:8]([C:7]([C:6]([H:11])([H:12])[H:13])([H:14])[H:15])([H:16])[H:17],127.31912
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]#[C:10][H:11]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]#[C:10][H:11],0.0
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([H:9])[H:10])[H:8]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:8])([H:9])[H:10],80.7512
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])[H:7])([H:5])[H:6],51.5887
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2](=[S:3])[H:16])[H:6])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:15],55.6472
[C:0](=[C:1]([C:2](=[C:3][c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:10])[H:13])[H:12])[H:11],129.586848
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17])([H:11])([H:12])[H:13]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:11])([H:12])[H:13])([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17],52.3
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])[C:6]12[H:15],41.84
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:18])[H:12])([H:10])[H:11],113.428
